US06326359B1
(2R,3R,4R,5R)-4-(Benzoyloxy)-5-[2-cyano-6-(phenethylamino)-9H-purin-9-yl]-2-(methoxymethyl)tetrahydro-3-furanyl benzoate
The title compound was prepared by a similar method to preparation 11 using 6-(phenethylamino)-9H-purine-2-carbonitrile (3.8 g, 11.2 mmol) (preparation 45), (2R,3R,4R,5S)-5-(acetyloxy)-4-(benzoyloxy)-2-(methoxymethyl)tetrahydro-3-furanyl benzoate and (2R,3R,4R,5R)-5-(acetyloxy)-4-(benzoyloxy)-2-(methoxymethyl)tetrahydro-3-furanyl benzoate (preparation 4) (6 g, 14.5 mmol), ammonium sulfate (200 mg, 1.2 mmol), 1,1,1,3,3,3-hexamethyidisilazane (150 ml), bromotrimethylsilane (8 ml, 177 mmol), acetonitrile (80 ml), dichloromethane (80 ml) and bismuth tribromide (0.35 g, 0.24 mmol). The product was purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol (99.5:0.5). This gave the title compound (7.9 g) as a white foam. MS: 619 (MH+).

reactant | 6-(phenethylamino)-9H-purine-2-carbonitrile | 11.2 mmol, 3.8 g | C(CC1=CC=CC=C1)NC1=C2N=CNC2=NC(=N1)C#N | C14H12N6
reactant | (2R,3R,4R,5S)-5-(acetyloxy)-4-(benzoyloxy)-2-(methoxymethyl)tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C)=O)COC | C22H22O8
reactant | (2R,3R,4R,5R)-5-(acetyloxy)-4-(benzoyloxy)-2-(methoxymethyl)tetrahydro-3-furanyl benzoate | 14.5 mmol, 6 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C)=O)COC | C22H22O8
reactant | ammonium sulfate | 1.2 mmol, 200 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | 1,1,1,3,3,3-hexamethyidisilazane | 150 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | bromotrimethylsilane | 177 mmol, 8 ml | Br[Si](C)(C)C | C3H9BrSi
catalyst | bismuth tribromide | 0.24 mmol, 0.35 g | [Bi](Br)(Br)Br
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | (2R,3R,4R,5R)-4-(Benzoyloxy)-5-[2-cyano-6-(phenethylamino)-9H-purin-9-yl]-2-(methoxymethyl)tetrahydro-3-furanyl benzoate | 7.9 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)NCCC1=CC=CC=C1)C#N)COC | C34H30N6O6
